US08791132B2
Methanesulfonicacid2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c] fluoren-6-yl)-1-pyrazin-2-yl-ethyl ester (280 mg, 0.65 mmol) was dissolved in 3 mL DMF, sodium azide (64 mg, 0.98 mmol) was added and heated at 90° C. for 1 h. The reaction mixture was monitored by LCMS. After consumption of starting material, the reaction mixture was cooled to RT, diluted with water (3 mL) and concentrated to obtain the crude product, which was purified by reverse phase chromatography to obtain 60 mg of 6-(2-azido-2-pyrazin-2-yl-ethyl)-9-methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene. 1H NMR (CDCl3, freebase) δ (ppm): 8.65 (d, 1H), 8.60 (s, 1H), 8.50 (s, 1H), 7.8 (d, 1H), 7.22 (d, 1H), 7.09 (t, 1H), 5.1 (m, 1H), 4.8 (m, 1H), 4.6 (dd, 1H), 4.3 (m, 1H), 3.45 (m, 3H), 2.97 (m, 2H), 2.84 (m, 2H), 2.6 (m, 1H), 2.45 (d, 3H), 2.2 (m, 1H), 1.9 m (1′H). Separation by chiral HPLC provided enantiomers II-261a-b.

reactant | Methanesulfonicacid2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c] fluoren-6-yl)-1-pyrazin-2-yl-ethyl ester | 0.65 mmol, 280 mg | CC1=CC=2C=3C4N(CCC3N(C2C=C1)CC(C1=NC=CN=C1)OS(=O)(=O)C)CCC4 | C22H26N4O3S
reactant | sodium azide | 0.98 mmol, 64 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-(2-azido-2-pyrazin-2-yl-ethyl)-9-methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene | 60 mg | N(=[N+]=[N-])C(CN1C=2C=CC(=CC2C=2C3N(CCC12)CCC3)C)C3=NC=CN=C3 | C21H23N7
